US04052389
1-(p-methoxybenzyl)-2-trifluoroacetyl-1,2,3,4,5,6,7,8 octahydroisoquinoline (Ib)
To a cooled (ice-bath) solution of 2-(p-methoxybenzyl)-1,2,3,4,5,6,7,8-octahydroisoquinoline (1.82 g., 7 mmoles) and triethylamine (0.73 g, 7.2 mmoles) in dichloromethane (15 ml) was added dropwise a solution of trifluoroacetic anhydride (0.51 g, 7.2 mmol) in dichloromethane (10 ml). The reaction mixture was washed successively with 1N hydrochloric acid, aqueous ammonia and water, and then it was dried and concentrated in vacuo to give 2.41 g (theoretical yield) of Ib as an oil; I.R. 1680 cm-1, NMR (CDCl3) δ6.5 - 7.0 (4H, m), 4.68 (1H, broad t, J = 6.5 Hz), 3.56 (3H, s, 2.5 - 3.9 (4H, m), 1.4 - 2.2 (10 H, m). Molecular weight calculated for C19H22F3NO2 : 353, Found (mass spectrometry) 353.

reactant | 2-(p-methoxybenzyl)-1,2,3,4,5,6,7,8-octahydroisoquinoline | 7 mmoles, 1.82 g | COC1=CC=C(CN2CC=3CCCCC3CC2)C=C1 | C17H23NO
reactant | triethylamine | 7.2 mmoles, 0.73 g | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 7.2 mmol, 0.51 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-(p-methoxybenzyl)-2-trifluoroacetyl-1,2,3,4,5,6,7,8 octahydroisoquinoline | COC1=CC=C(CC2N(CCC=3CCCCC23)C(C(F)(F)F)=O)C=C1 | C19H22F3NO2
